US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(8-methyl-2,3,5,8-tetrahydro-6H-1,4-dioxa-7-aza-phenanthren-7-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 8-Methyl-2,3,5,6,7,8-hexahydro-1,4-dioxa-7-aza-phenanthrene to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 8-Methyl-2,3,5,6,7,8-hexahydro-1,4-dioxa-7-aza-phenanthrene | CC1NCCC2=C3OCCOC3=CC=C12 | C12H15NO2
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(8-methyl-2,3,5,8-tetrahydro-6H-1,4-dioxa-7-aza-phenanthren-7-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC1=C3OCCOC3=CC=C1C2C | C19H17BrN4O3
